US06921821B2
(S)-1-(1-Naphthalen-2-yl-ethyl)-piperidin-4-one
To a solution of (S)-methyl-3-[(2-methoxycarbonylethyl)-(1-naphthalen-2-yl-ethyl)-amino]-propanoate (3.6 g, 10 mmol) in toluene (20 mL), NaH (0.5 g, 13 mmol) was added and the mixture was refluxed in an oil bath kept at 150° C. for 6 hours. After cool, the reaction mixture was acidified with AcOH and extracted with benzene. The organic layer was dried over MgSO4, and concentrated to afford a crude oil. The oil was boiled with 10% HCl (20 mL) for 18 hours. The aqueous solution was basified with K2CO3 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and evaporated. The crude oil was purified by chromatography on silica gel with ethyl acetate/hexanes (1:4) to give the title compound (1.2 g, 47%). 1H NMR (300 MHz, CDCl3) δ 1.51 (3H, d, J=6.59 Hz), 2.44 (4H, t, J=6.03 Hz), 2.71-2.90 (4H, m), 3.79 (1H, q, J=6.78 Hz), 7.42-7.60 (3H, m), 7.72-7.86 (4H, m).

reactant | (S)-methyl-3-[(2-methoxycarbonylethyl)-(1-naphthalen-2-yl-ethyl)-amino]-propanoate | 10 mmol, 3.6 g | COC(CCN([C@@H](C)C1=CC2=CC=CC=C2C=C1)CCC(=O)OC)=O | C20H25NO4
reactant | NaH | 13 mmol, 0.5 g | [H-].[Na+]
reactant | HCl | 20 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | AcOH | CC(=O)O | C2H4O2
product | (S)-1-(1-Naphthalen-2-yl-ethyl)-piperidin-4-one | 1.2 g, 47% | C1=C(C=CC2=CC=CC=C12)[C@H](C)N1CCC(CC1)=O | C17H19NO
